US08470820B2
Step 1: 1-(2-Fluoro-phenyl)-1H-pyrazol-3-ylamine
According to the method described in step 1 of example 2, the amine was obtained starting from 2-fluorophenylhydrazine×HCl as brown solid in 24% yield.

reactant | 2-fluorophenylhydrazine | FC1=C(C=CC=C1)NN | C6H7FN2
reactant | HCl | Cl | ClH
product | 1-(2-Fluoro-phenyl)-1H-pyrazol-3-ylamine | 24% yield | FC1=C(C=CC=C1)N1N=C(C=C1)N | C9H8FN3
